data/mechanism_extracts/OrgChemFront/10.1039_D3QO00290J_sup_1.json
{"doi": "10.1039_D3QO00290J_sup_1", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Photoelectrochemical trifluoromethylation/cyclization of N-allyl 2-arylbenzimidazoles with CF3SO2Na to access CF3-bearing benzimidazo-fused tetrahydroisoquinolines", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "radical_anodic"], "electrochemical_role": "Anodic oxidation regenerates the photoexcited eosin Y catalyst (and/or oxidizes the cyclized radical to a cation); CF3SO2Na is oxidized via SET to release CF3 radical after extrusion of SO2", "key_intermediates": [{"name": "CF3 radical", "smiles": "[CH2]C(F)(F)F", "role": "reactive"}, {"name": "alkyl radical after CF3 addition to allyl alkene", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl radical from intramolecular arene attack", "smiles": null, "role": "transient"}, {"name": "Wheland-type cation (after anodic oxidation of cyclized radical)", "smiles": null, "role": "reactive"}, {"name": "(3,3,3-trifluoroprop-1-ene-1,1-diyl)dibenzene (18, DPE-CF3 adduct)", "smiles": "FC(F)(F)CC=C(c1ccccc1)c1ccccc1", "role": "off_pathway"}], "electron_flow": "Photoexcited eosin Y oxidizes CF3SO2- to generate a CF3 radical (after SO2 loss), which adds to the terminal allyl alkene of 1a; the resulting carbon radical cyclizes onto the pendant aryl ring, and the cyclohexadienyl radical is further oxidized (anodically and/or via eosin Y+) to a cation, then deprotonated to give 3a. Protons are reduced at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "0% yield of 3a; reaction fully suppressed"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Only trace 3a"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trace 3a; CF3-DPE adduct 18 isolated in 36%, confirming CF3 radical"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "0% 3a; SET inhibitor shuts down reaction"}, {"name": "CuCl2", "smiles": "[Cl-].[Cl-].[Cu+2]", "purpose": "redox_probe", "observation": "Trace 3a"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "redox_probe", "observation": "Trace 3a"}, {"name": "on/off control: no PC/no light", "smiles": null, "purpose": "other", "observation": "Reaction profile shows greatly diminished/no formation of 3a without photocatalyst and light"}, {"name": "on/off control: no electricity", "smiles": null, "purpose": "other", "observation": "Reaction profile shows greatly diminished/no formation of 3a without electrolysis, confirming synergy of photo- and electrocatalysis"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Trapping experiments collectively support a radical pathway initiated by CF3 radical generated via SET oxidation of CF3SO2Na; isolation of CF3-DPE adduct 18 (36%) provides direct evidence for free CF3 radical. SET inhibitor (pDNB) abolishes reactivity. On/off control reactions (no PC/light or no electricity) demonstrate both photochemical and electrochemical components are required, consistent with a photoelectrochemical radical-polar crossover cyclization."}
